US09119868B2
Step 2: 5-cyclopropyl-6-(N-(3-(difluoromethyl)-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide (1.00 g, 2.49 mmol), 2-(difluoromethyl)-4-fluoro-1-nitrobenzene (1.13 g, 5.91 mmol) and K2CO3 (0.85 g, 6.15 mmol) in HMPA (6.2 mL) was stirred at 60° C. for 15 h. The reaction mixture was diluted with EtOAc and water. The organic layer was washed with brine, dried (Na2SO4), filtered, evaporated and purified by silica gel chromatography (0-80% EtOAc/hexanes) to afford the title compound (1.45 g, 97%) as a yellow solid. LCMS (m/z, ES+)=574.3 (M+H+).

reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide | 2.49 mmol, 1.00 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)NS(=O)(=O)C | C20H19FN2O4S
reactant | 2-(difluoromethyl)-4-fluoro-1-nitrobenzene | 5.91 mmol, 1.13 g | FC(C1=C(C=CC(=C1)F)[N+](=O)[O-])F | C7H4F3NO2
reactant | K2CO3 | 6.15 mmol, 0.85 g | C(=O)([O-])[O-].[K+].[K+]
solvent | HMPA | 6.2 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-cyclopropyl-6-(N-(3-(difluoromethyl)-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 1.45 g, 97% | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)F | C27H22F3N3O6S
